US07157488B2
3-Formyl-6-chloro-7-fluoro-1H-indole
Add phosphorus oxychloride (0.94 g, 6.16 mmol) to DMF (12 mL, cooled in an ice bath) with vigorous stirring. After about 10 minutes, add 6-chloro-7-fluoro indole (0.93 g, 5.6 mmol) in anhydrous DMF (4 mL), stir at 0° C. for 1 hour, warm to room temperature and stir overnight at room temperature (˜16 hrs). Treat with 14.0 mL of 2N NaOH (4 eq.) with vigorous stirring. Heat the reaction to 80° C. for half an hour then cool. Pour the reaction into cold water with vigorous stirring to give a solid. Collect the solid by filtration and dry overnight in a vacuum oven at room temperature, to give the title compound: 1H NMR (300 MHz, CD3COCD3/CDCl3) 7.09 (t, 1H, J=7.7 Hz), 7.83–7.86 (m, 2H), 9.89 (s, 1H). By the method of Example 316 the following compounds were prepared: a) 3-Formyl-5,7-difluoro-1H-indole: 1H NMR (300 MHz, CD3COCD3) 6.98–7.06 (m, 1H), 7.71–7.75 (m, 1H), 8.35 (s, 1H), 10.04 (s, 1H);

reactant | phosphorus oxychloride | 6.16 mmol, 0.94 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-chloro-7-fluoro indole | 5.6 mmol, 0.93 g | ClC1=CC=C2C=CNC2=C1F | C8H5ClFN
reactant | NaOH | 2N, 14.0 mL, 4 eq. | [OH-].[Na+]
reactant | water | O | H2O
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 3-Formyl-6-chloro-7-fluoro-1H-indole | C(=O)C1=CNC2=C(C(=CC=C12)Cl)F | C9H5ClFNO
